US05663357
Methyl 2-Nitro-4-aminobenzoate (Compound K)
2-Nitro-4-aminobenzoic acid (261 mg, 1.43 mmol) was dissolved in 1 ml of SOCl2. The solution was refluxed for 1 hour. Excess SOCl2 was removed under reduced pressure and 5 ml of CH2Cl2, 1 ml of MeOH and TEA (0.24 ml, 1.7 mmol) were added to the residue. The reaction mixture was stirred at room temperature for 2 hours. Excess MeOH and TEA were removed and the residue was purified by column chromatography with ethyl acetate/hexane (1/3) to yield the title compound as a yellow solid (316 mg). 1H NMR δ 7.69 (d, J=8.5 Hz, 1H), 6.85 (d, J=2.2 Hz, 1H), 6.67 (dd, J=8.3; 2.1 Hz, 1H), 4.31 (b, 2H), 3.94 (s, 3H).

reactant | 2-Nitro-4-aminobenzoic acid | 1.43 mmol, 261 mg | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)N | C7H6N2O4
reactant | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
reactant | MeOH | 1 ml | CO | CH4O
solvent | SOCl2 | 1 ml | O=S(Cl)Cl | Cl2OS
product | Methyl 2-Nitro-4-aminobenzoate | 316 mg | [N+](=O)([O-])C1=C(C(=O)OC)C=CC(=C1)N | C8H8N2O4
